US09388173B2
Step 4: 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(2-methyl-2H-pyrazolo[3,4-b]pyridin-6-yl)phenoxy)propan-2-ol
To a solution of 6-chloro-2-methyl-2H-pyrazolo[3,4-b]pyridine (220 mg, 1.313 mmol) in dioxane (8 ml) and H2O (2 mL) was added 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol (800 mg, 1.969 mmol), Pd(dppf)Cl2 (16 mg, 0.131 mmol) and K2CO3 (544 mg, 3.939 mmol) at 27° C. The reaction mixture was then stirred for 16 h at 100° C. until the reaction was shown to be complete by TLC analysis. The mixture was then concentrated to a crude material which was purified by prep-HPLC separation to give the desired product 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(2-methyl-2H-pyrazolo[3,4-b]pyridin-6-yl)phenoxy)propan-2-ol as a white solid (13 mg, 2.4%). 1H NMR (400 MHz, MeOD): 8.13 (d, J=8.4 Hz, 1H), 8.02 (s, 1H), 7.80 (s, 1H), 7.74 (d, J=8.0 Hz, 1H), 7.63 (d, J=8.4 Hz, 1H), 7.46 (dd, J1=J2=8.0 Hz, 1H), 7.29 (s, 1H), 7.20-7.15 (m, 3H), 7.07-7.05 (m, 2H), 4.35-4.32 (m, 1H), 4.24 (s, 3H), 4.21-4.15 (m, 2H), 3.98 (d, J=6.8 Hz, 2H), 3.80 (d, J=6.8 Hz, 2H), 3.08-2.86 (m, 6H). LCMS (m/z): 415.2 (M+1).

reactant | 6-chloro-2-methyl-2H-pyrazolo[3,4-b]pyridine | 1.313 mmol, 220 mg | ClC=1C=CC=2C(N1)=NN(C2)C | C7H6ClN3
reactant | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)propan-2-ol | 1.969 mmol, 800 mg | C1N(CCC2=CC=CC=C12)CC(COC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)O | C24H32BNO4
reactant | K2CO3 | 3.939 mmol, 544 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 2 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.131 mmol, 16 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(2-methyl-2H-pyrazolo[3,4-b]pyridin-6-yl)phenoxy)propan-2-ol | 13 mg, 2.4% | C1N(CCC2=CC=CC=C12)CC(COC1=CC(=CC=C1)C=1C=CC=2C(N1)=NN(C2)C)O | C25H26N4O2
